US09212182B2
A flask was charged with (E)-ethyl 3-(5-(benzylthio)-2-((5-chloro-2-methoxy-4-(trifluoromethyl)phenyl)amino)phenyl)acrylate (5.33 g, 10.21 mmol) and MeOH (102 mL), followed by sodium methoxide (8.17 ml, 4.08 mmol) under nitrogen atmosphere. A reflux condensor was added, and the flask was lowered into an oil bath at 75° C. At 18 h the reaction was cooled to RT and filtered through a silica plug to remove black particulates. The product was eluted with MeOH and concentrated down to about 50 mL, followed by filtration through a medium glass frit, washing the solid with MeOH. The solid precipitate was dried under high vac to provide 6-(benzylthio)-1-(5-chloro-2-methoxy-4-(trifluoromethyl)phenyl)quinolin-2(1H)-one (3.257 g, 6.84 mmol, 67.0% yield). m/z (ESI) 475.8 (M+H)+.

reactant | (E)-ethyl 3-(5-(benzylthio)-2-((5-chloro-2-methoxy-4-(trifluoromethyl)phenyl)amino)phenyl)acrylate | 10.21 mmol, 5.33 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1=C(C=C(C(=C1)Cl)C(F)(F)F)OC | C26H23ClF3NO3S
reactant | sodium methoxide | 4.08 mmol, 8.17 ml | C[O-].[Na+]
solvent | MeOH | 102 mL | CO | CH4O
product | 6-(benzylthio)-1-(5-chloro-2-methoxy-4-(trifluoromethyl)phenyl)quinolin-2(1H)-one | 6.84 mmol, 3.257 g, 67.0% yield | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)Cl)C(F)(F)F)OC)=O | C24H17ClF3NO2S
